Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.9803262039700005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11]>>[C:7](#[C:8][H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.3812594897
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1],5.9610760209899984
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],0.856742941316
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.14557405086
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5],1.70908932061
[C:2]#[C:3][C:4]([H:5])[C:7]#[C:8][H:9].[H:1][C:6]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.70321264807
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]1([H:8])[O:9][C:10]1[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10](=[O:9])[H:11],-1.37846569085
[H:1][O:2][C:3][C:4]([H:5])[C:7]#[C:8][C:9]([H:10])[H:11].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-2.25787048748
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],5.41346096342
[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.9317452618
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],6.5049265627
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-1.98299811756
[C:4]([H:6])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.40631123962
[H:1][O:2][C:3]#[C:4][C:5]#[C:6][O:7][H:8]>>[C:4]#[C:5][C:6][O:7][H:8].[H:1][O:2][C:3],6.043843258990001
[H:1][O:2][O:3][C:4]([H:5])=[C:7]([H:8])[H:9].[H:6]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-1.6768894607499998
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2],8.092354259630001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.86464654
[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.67396731395
[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-1.03577235009
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7][O:8][H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-1.14787082474
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.26066441212
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.93737562165
[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.89978461618
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],4.601447514609999
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.5288669557699994
[C:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-3.2593948382200004
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4],1.98935132507
